US04062869
3-(2-Hydroxyethyl)indole
A suspension of benzyl 3-indolylglyoxylate (55.8 g.) and sodium borohydride (22.7 g.) in isopropanol (560 ml.) was heated to reflux over a period of 40 minutes and stirred at that temperature for 4 hours. After cooling the mixture was diluted with water (1.2 l.) and extracted with dichloromethane. The extract was washed with water and the solvent evaporated under reduced pressure to yield a viscous oil. This was distilled at 0.5 - 1 mm. pressure and the friction which distilled at a vapour temperature of 160°-190° was crystallised from toluene (100 ml.), giving the title compound as white crystals, mp. 57°-90°. Yield 24.3 g. (75.5%).

reactant | benzyl 3-indolylglyoxylate | 55.8 g | N1C=C(C2=CC=CC=C12)C(C(=O)OCC1=CC=CC=C1)=O | C17H13NO3
reactant | sodium borohydride | 22.7 g | [BH4-].[Na+]
solvent | isopropanol | 560 ml | C(C)(C)O | C3H8O
solvent | water | 1.2 l | O | H2O
product | 3-(2-Hydroxyethyl)indole | OCCC1=CNC2=CC=CC=C12 | C10H11NO
